US06924276B2
3-Methoxy-thiophene-2,5-dicarboxylic Acid di-1,3-benzodioxol-5-ylmethyl Ester
The title compound was prepared according to the procedure of Example 2 using carbonyldiimidazole (0.8 g, 4.8 mmol), 3-methoxy-2,5-thiophene-dicarboxylic acid (0.4 g, 2.0 mmol), and piperonyl alcohol (0.62 g, 4.0 mmol). Acidification of the aqueous workup mixture with dilute hydrochloric acid prior to filtration afforded 0.8 g of 3-methoxy-thiophene-2,5-dicarboxylic acid di-1,3-benzodioxol-5-ylmethyl ester. Recrystallization of a sample from acetonitrile gave product with a mp 153-155° C.

reactant | carbonyldiimidazole | 4.8 mmol, 0.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methoxy-2,5-thiophene-dicarboxylic acid | 2.0 mmol, 0.4 g | COC1=C(SC(=C1)C(=O)O)C(=O)O | C7H6O5S
reactant | piperonyl alcohol | 4.0 mmol, 0.62 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
product | 3-methoxy-thiophene-2,5-dicarboxylic acid di-1,3-benzodioxol-5-ylmethyl ester | 0.8 g | O1COC2=C1C=CC(=C2)C(C2=CC1=C(OCO1)C=C2)OC(=O)C=2SC(=CC2OC)C(=O)O | C22H16O9S
